US06423869B1
diphenylmethyl (S)-3-[(2S,3R,4R,5S)-5-(O-tert-butyl-L-seryl)amino-2,3,4,6-tetrahydroxyhexanoyl]amino-3-phenylpropionate
To diphenylmethyl (S)-3-[(2S,3R,4R,5S)-5-(O-tert-butyl-N-fluorenylmethyloxycarbonyl-L-seryl)amino-2,3,4,6-tetrahydroxyhexanoyl]amino-3-phenylpropionate (874 mg) was added piperidine (5 ml) and the mixture was stirred at room temperature for 5 hours. Removal of the organic solvent gave a residue, which was subjected to flush silica gel column chromatography, followed by elution with methanol-ethyl acetate (1:2). The effective fractions were combined and concentrated under reduced pressure. The residue was recrystallized from diethylether-hexane to afford the title compound (539 mg).

reactant | diphenylmethyl (S)-3-[(2S,3R,4R,5S)-5-(O-tert-butyl-N-fluorenylmethyloxycarbonyl-L-seryl)amino-2,3,4,6-tetrahydroxyhexanoyl]amino-3-phenylpropionate | 874 mg | C(C)(C)(C)OC[C@H](NC(=O)OCC1=CC=CC=2C3=CC=CC=C3CC12)C(=O)N[C@H]([C@H]([C@H]([C@@H](C(=O)N[C@@H](CC(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1)O)O)O)CO | C50H55N3O11
reactant | piperidine | 5 ml | N1CCCCC1 | C5H11N
product | diphenylmethyl (S)-3-[(2S,3R,4R,5S)-5-(O-tert-butyl-L-seryl)amino-2,3,4,6-tetrahydroxyhexanoyl]amino-3-phenylpropionate | 539 mg | C(C)(C)(C)OC[C@H](N)C(=O)N[C@H]([C@H]([C@H]([C@@H](C(=O)N[C@@H](CC(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1)O)O)O)CO | C35H45N3O9
